US06960586B2
Production of 7-[1-(1-allyloxycarbonyl-1H-imidazol-4-yl)-1-hydroxy-2-methylpropyl]-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one
7-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one (13.8 g) was suspended in DMF (400 ml) and the mixture was heated to 85° C. to give a homogeneous solution. This solution was cooled in an ice bath and triethylamine (8.6 ml) was added. Then allyloxycarbonyl chloride (5.2 ml) was slowly added and the reaction mixture was stirred at room temperature for 1.5 hrs. The reaction mixture was diluted with water and extracted twice with ethyl acetate. The extracted layers were combined, washed three times with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography (carrier: silica gel, developing solvent: dichloromethane-methanol=100:1-40:1) to give the title compound (15.9 g) as colorless crystals.

reactant | 7-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one | 13.8 g | OC(C(C)C)(C=1N=CNC1)C1=CC2=C(C=3CN(C(C3C=C2)=O)C)C=C1 | C20H21N3O2
reactant | triethylamine | 8.6 ml | C(C)N(CC)CC | C6H15N
reactant | allyloxycarbonyl chloride | 5.2 ml | C(C=C)OC(=O)Cl | C4H5ClO2
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-[1-(1-allyloxycarbonyl-1H-imidazol-4-yl)-1-hydroxy-2-methylpropyl]-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one | 15.9 g | C(C=C)OC(=O)N1C=NC(=C1)C(C(C)C)(O)C1=CC2=C(C=3CN(C(C3C=C2)=O)C)C=C1 | C24H25N3O4
